* Schematics Netlist *



M_M1         $N_0002 $N_0001 0 0 MODN  
+ L=1.4u  
+ W=1.4u         
V_Vgs         $N_0001 0 1v
V_V6         $N_0001 $N_0002 0.4V
