* Schematics Netlist *



V_Vgs         $N_0001 $N_0002 0.9V
M_P1         0 $N_0002 $N_0001 $N_0001 MODP  
+ L=1.4u  
+ W=1.4u         
V_V4         0 $N_0002 0.5V
