* Schematics Netlist *



V_Vdd         $N_0001 0 1.2V
M_M2         $N_0003 $N_0002 $N_0001 $N_0001 MbreakP           
M_M1         $N_0003 $N_0002 0 0 MbreakN           
C_Cload         0 $N_0003  1n  
V_Vin         $N_0002 0 DC 0 AC 0
+PULSE 0 1.2 0 10p 10p 250p 500p
